US08455475B2
tert-Butyl 9-(2-hydroxyethoxy)-3-azaspiro[5.5]undecane-3-carboxylate
NaBH4 (13.46 mmol, 2.0 eq.) was added portion wise to a stirred solution of tert-butyl 9-(2-oxoethoxy)-3-azaspiro[5.5]undecane-3-carboxylate (6.73 mmol, 1.0 eq.) in MeOH (65 ml) at 0° C. and the resulting reaction mixture was stirred at 25° C. for 16 h. The solvent was evaporated under reduced pressure. The residue was dissolved in ethyl acetate (300 ml) and washed with water (200 ml) and brine (200 ml). The organic layer was dried over sodium sulfate and concentrated under reduced pressure to give the crude product. The crude product was purified by silica gel column chromatography eluting with 20% ethyl acetate in hexanes to give the desired product as a yellow sticky solid. Yield: 40%

reactant | NaBH4 | 13.46 mmol, 2.0 eq. | [BH4-].[Na+]
reactant | tert-butyl 9-(2-oxoethoxy)-3-azaspiro[5.5]undecane-3-carboxylate | 6.73 mmol, 1.0 eq. | O=CCOC1CCC2(CCN(CC2)C(=O)OC(C)(C)C)CC1 | C17H29NO4
solvent | MeOH | 65 ml | CO | CH4O
product | tert-Butyl 9-(2-hydroxyethoxy)-3-azaspiro[5.5]undecane-3-carboxylate | Yield: 40% | OCCOC1CCC2(CCN(CC2)C(=O)OC(C)(C)C)CC1 | C17H31NO4
